US06441017B1
Step H: 1-Amino-3-bromo-7-tert-butoxynaphthalene
A mixture of 3-bromo-7-tert-butoxy-1-nitronaphthalene, as described above in Step G, (1.08 g, 3.33 mmol), NH4Cl (89 mg, 1.67 mmol), and iron powder (930 mg, 16.7 mmol) in EtOH (70 mL) and H2O (30 mL) was heated to reflux for 7 hours, then cooled and filtered through a pad of celite, washing with EtOH. The filtrate was concentrated under reduced pressure and the residue was partitioned between dilute aqueous NaHCO3 (50 mL) and CH2Cl2 (150 mL). The aqueous layer was extracted further with CH2Cl2 (50 mL). The combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with a gradient of hexane—5% to 20% EtOAc to afford the titled compound.

reactant | 3-bromo-7-tert-butoxy-1-nitronaphthalene | BrC=1C=C(C2=CC(=CC=C2C1)OC(C)(C)C)[N+](=O)[O-] | C14H14BrNO3
reactant | NH4Cl | 3.33 mmol, 1.08 g | [NH4+].[Cl-]
solvent | EtOH | 70 mL | CCO | C2H6O
solvent | H2O | 30 mL | O | H2O
catalyst | iron | 16.7 mmol, 930 mg | [Fe] | Fe
product | 1-Amino-3-bromo-7-tert-butoxynaphthalene | NC1=CC(=CC2=CC=C(C=C12)OC(C)(C)C)Br | C14H16BrNO
